US05143643
7 g of 4-octyloxypentanol, 4.34 g of p-toluenesulfonyl chloride, 1.8 g of pyridine and 10 ml of benzene were stirred under N2 stream at room temperature for 22 hours. Thereafter, 6.5 ml of hot conc. NaOH aqueous solution was added to the reaction mixture and stirred for 5 min. Then, the mixture was poured into cold 10%-hydrochloric acid and extracted with hexane. The hexane layer was washed successively with cold 5%-hydrochloric acid, saturated NaHCO3 aqueous solution and water and dried with anhydrous MgSO4. After removing the solvent by distillation, the product was treated with alumina column (hexane) to obtain 6.6 g of 4-octyloxypentyl p-toluenesulfonate.

reactant | 4-octyloxypentanol | 7 g | C(CCCCCCC)OC(CCCO)C | C13H28O2
reactant | p-toluenesulfonyl chloride | 4.34 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaOH | 6.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 1.8 g | N1=CC=CC=C1 | C5H5N
product | 4-octyloxypentyl p-toluenesulfonate | 6.6 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC(C)OCCCCCCCC)C | C20H34O4S
